* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.007106301527028361
Fd1_1 0 s1 V1 0.355315076351418
Gr1_re_1_1 0 s1 x1_re_a1 0 59933155.52863987
Gr1_im_1_1 0 s1 x1_im_a1 0 53152397.860544704
Gr2_re_1_1 0 s1 x2_re_a1 0 2.9407473098104804
Gr2_im_1_1 0 s1 x2_im_a1 0 11.703217836944384
Gr3_re_1_1 0 s1 x3_re_a1 0 -17.688029199263806
Gr3_im_1_1 0 s1 x3_im_a1 0 -149.36377582064054
Gr4_1_1 0 s1 x4_a1 0 -107137.19548410425
Gr5_re_1_1 0 s1 x5_re_a1 0 -10.608014276199984
Gr5_im_1_1 0 s1 x5_im_a1 0 6.5546705275952
Gr6_re_1_1 0 s1 x6_re_a1 0 -0.6170894163430619
Gr6_im_1_1 0 s1 x6_im_a1 0 -11.868272601432201
Gr7_1_1 0 s1 x7_a1 0 -3104585.583112811
Gr8_1_1 0 s1 x8_a1 0 377521.98779053753
Gr9_re_1_1 0 s1 x9_re_a1 0 8.36690314364864
Gr9_im_1_1 0 s1 x9_im_a1 0 3.3339096862081012
Gr10_re_1_1 0 s1 x10_re_a1 0 -1.004047768991997
Gr10_im_1_1 0 s1 x10_im_a1 0 4.357057506562898
Gr11_1_1 0 s1 x11_a1 0 -25037.807493837387
Gr12_re_1_1 0 s1 x12_re_a1 0 -1.9956232978830104
Gr12_im_1_1 0 s1 x12_im_a1 0 0.5874131037580301
Gr13_1_1 0 s1 x13_a1 0 -52.37508084846104
Gr14_re_1_1 0 s1 x14_re_a1 0 1.206526913615976
Gr14_im_1_1 0 s1 x14_im_a1 0 2.927308735593934
Gr15_re_1_1 0 s1 x15_re_a1 0 -0.45531653262277244
Gr15_im_1_1 0 s1 x15_im_a1 0 -0.4542439084853532
Gd1_2 0 s1 p2 0 0.01289369847297195
Fd1_2 0 s1 V2 0.6446849236485975
Gr1_re_1_2 0 s1 x1_re_a2 0 -59933155.52864192
Gr1_im_1_2 0 s1 x1_im_a2 0 -53152397.860548295
Gr2_re_1_2 0 s1 x2_re_a2 0 -2.9407473096406145
Gr2_im_1_2 0 s1 x2_im_a2 0 -11.703217837396924
Gr3_re_1_2 0 s1 x3_re_a2 0 17.688029199635206
Gr3_im_1_2 0 s1 x3_im_a2 0 149.36377582126335
Gr4_1_2 0 s1 x4_a2 0 107137.19548410065
Gr5_re_1_2 0 s1 x5_re_a2 0 10.608014276408706
Gr5_im_1_2 0 s1 x5_im_a2 0 -6.554670527666404
Gr6_re_1_2 0 s1 x6_re_a2 0 0.6170894166368251
Gr6_im_1_2 0 s1 x6_im_a2 0 11.86827260167414
Gr7_1_2 0 s1 x7_a2 0 3104585.5831128503
Gr8_1_2 0 s1 x8_a2 0 -377521.98779058305
Gr9_re_1_2 0 s1 x9_re_a2 0 -8.366903143197549
Gr9_im_1_2 0 s1 x9_im_a2 0 -3.3339096868411353
Gr10_re_1_2 0 s1 x10_re_a2 0 1.004047768998957
Gr10_im_1_2 0 s1 x10_im_a2 0 -4.357057506528364
Gr11_1_2 0 s1 x11_a2 0 25037.80749384228
Gr12_re_1_2 0 s1 x12_re_a2 0 1.9956232978885868
Gr12_im_1_2 0 s1 x12_im_a2 0 -0.5874131037918293
Gr13_1_2 0 s1 x13_a2 0 52.37508084849746
Gr14_re_1_2 0 s1 x14_re_a2 0 -1.2065269135737118
Gr14_im_1_2 0 s1 x14_im_a2 0 -2.927308735645781
Gr15_re_1_2 0 s1 x15_re_a2 0 0.4553165326067515
Gr15_im_1_2 0 s1 x15_im_a2 0 0.4542439084877905
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 2.1161030484717027e-09
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 123544147.29101038
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -123544147.29101038
Rp1_im_im_a1 0 x1_im_a1 2.1161030484717027e-09
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.1037555408064194e-06
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 32944637.633580856
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -32944637.633580856
Rp2_im_im_a1 0 x2_im_a1 1.1037555408064194e-06
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.453826811257839e-07
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 30976931.902050897
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -30976931.902050897
Rp3_im_im_a1 0 x3_im_a1 1.453826811257839e-07
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 3.3423919871752114e-08
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 3.868037117681213e-06
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 13595245.945361277
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -13595245.945361277
Rp5_im_im_a1 0 x5_im_a1 3.868037117681213e-06
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.3335984300525142e-06
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 9115539.776401034
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -9115539.776401034
Rp6_im_im_a1 0 x6_im_a1 1.3335984300525142e-06
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.0258318199555051e-07
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.2187694093517196e-07
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 7.548402163074587e-07
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 5419800.704099274
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -5419800.704099274
Rp9_im_im_a1 0 x9_im_a1 7.548402163074587e-07
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 7.198769308556018e-06
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 5289333.174126882
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -5289333.174126882
Rp10_im_im_a1 0 x10_im_a1 7.198769308556018e-06
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 2.2914694766957105e-07
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 3.6937834628765953e-06
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 3333537.2517604134
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -3333537.2517604134
Rp12_im_im_a1 0 x12_im_a1 3.6937834628765953e-06
Cx13_a1 x13_a1 0 1.0
Gx13_a1 0 x13_a1 p1 0 0.07071067811865475
Fx13_a1 0 x13_a1 V1 3.5355339059327378
Rp13_a1 0 x13_a1 8.939485563798027e-06
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 3.762953527705593e-06
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 1629532.0546544953
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -1629532.0546544953
Rp14_im_im_a1 0 x14_im_a1 3.762953527705593e-06
Cx15_re_a1 x15_re_a1 0 1.0
Gx15_re_a1 0 x15_re_a1 p1 0 0.1414213562373095
Fx15_re_a1 0 x15_re_a1 V1 7.0710678118654755
Rp15_re_re_a1 0 x15_re_a1 3.152527105635938e-05
Gp15_re_im_a1 0 x15_re_a1 x15_im_a1 0 1754493.7266283447
Cx15_im_a1 x15_im_a1 0 1.0
Gp15_im_re_a1 0 x15_im_a1 x15_re_a1 0 -1754493.7266283447
Rp15_im_im_a1 0 x15_im_a1 3.152527105635938e-05
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.01289369847297195
Fd2_1 0 s2 V1 0.6446849236485975
Gr1_re_2_1 0 s2 x1_re_a1 0 -59933155.52864192
Gr1_im_2_1 0 s2 x1_im_a1 0 -53152397.860548295
Gr2_re_2_1 0 s2 x2_re_a1 0 -2.9407473096406145
Gr2_im_2_1 0 s2 x2_im_a1 0 -11.703217837396924
Gr3_re_2_1 0 s2 x3_re_a1 0 17.688029199635206
Gr3_im_2_1 0 s2 x3_im_a1 0 149.36377582126335
Gr4_2_1 0 s2 x4_a1 0 107137.19548410065
Gr5_re_2_1 0 s2 x5_re_a1 0 10.608014276408706
Gr5_im_2_1 0 s2 x5_im_a1 0 -6.554670527666404
Gr6_re_2_1 0 s2 x6_re_a1 0 0.6170894166368251
Gr6_im_2_1 0 s2 x6_im_a1 0 11.86827260167414
Gr7_2_1 0 s2 x7_a1 0 3104585.5831128503
Gr8_2_1 0 s2 x8_a1 0 -377521.98779058305
Gr9_re_2_1 0 s2 x9_re_a1 0 -8.366903143197549
Gr9_im_2_1 0 s2 x9_im_a1 0 -3.3339096868411353
Gr10_re_2_1 0 s2 x10_re_a1 0 1.004047768998957
Gr10_im_2_1 0 s2 x10_im_a1 0 -4.357057506528364
Gr11_2_1 0 s2 x11_a1 0 25037.80749384228
Gr12_re_2_1 0 s2 x12_re_a1 0 1.9956232978885868
Gr12_im_2_1 0 s2 x12_im_a1 0 -0.5874131037918293
Gr13_2_1 0 s2 x13_a1 0 52.37508084849746
Gr14_re_2_1 0 s2 x14_re_a1 0 -1.2065269135737118
Gr14_im_2_1 0 s2 x14_im_a1 0 -2.927308735645781
Gr15_re_2_1 0 s2 x15_re_a1 0 0.4553165326067515
Gr15_im_2_1 0 s2 x15_im_a1 0 0.4542439084877905
Gd2_2 0 s2 p2 0 0.007106301527028361
Fd2_2 0 s2 V2 0.355315076351418
Gr1_re_2_2 0 s2 x1_re_a2 0 59933155.52863987
Gr1_im_2_2 0 s2 x1_im_a2 0 53152397.860544704
Gr2_re_2_2 0 s2 x2_re_a2 0 2.9407473098104804
Gr2_im_2_2 0 s2 x2_im_a2 0 11.703217836944384
Gr3_re_2_2 0 s2 x3_re_a2 0 -17.688029199263806
Gr3_im_2_2 0 s2 x3_im_a2 0 -149.36377582064054
Gr4_2_2 0 s2 x4_a2 0 -107137.19548410425
Gr5_re_2_2 0 s2 x5_re_a2 0 -10.608014276199984
Gr5_im_2_2 0 s2 x5_im_a2 0 6.5546705275952
Gr6_re_2_2 0 s2 x6_re_a2 0 -0.6170894163430619
Gr6_im_2_2 0 s2 x6_im_a2 0 -11.868272601432201
Gr7_2_2 0 s2 x7_a2 0 -3104585.583112811
Gr8_2_2 0 s2 x8_a2 0 377521.98779053753
Gr9_re_2_2 0 s2 x9_re_a2 0 8.36690314364864
Gr9_im_2_2 0 s2 x9_im_a2 0 3.3339096862081012
Gr10_re_2_2 0 s2 x10_re_a2 0 -1.004047768991997
Gr10_im_2_2 0 s2 x10_im_a2 0 4.357057506562898
Gr11_2_2 0 s2 x11_a2 0 -25037.807493837387
Gr12_re_2_2 0 s2 x12_re_a2 0 -1.9956232978830104
Gr12_im_2_2 0 s2 x12_im_a2 0 0.5874131037580301
Gr13_2_2 0 s2 x13_a2 0 -52.37508084846104
Gr14_re_2_2 0 s2 x14_re_a2 0 1.206526913615976
Gr14_im_2_2 0 s2 x14_im_a2 0 2.927308735593934
Gr15_re_2_2 0 s2 x15_re_a2 0 -0.45531653262277244
Gr15_im_2_2 0 s2 x15_im_a2 0 -0.4542439084853532
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 2.1161030484717027e-09
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 123544147.29101038
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -123544147.29101038
Rp1_im_im_a2 0 x1_im_a2 2.1161030484717027e-09
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.1037555408064194e-06
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 32944637.633580856
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -32944637.633580856
Rp2_im_im_a2 0 x2_im_a2 1.1037555408064194e-06
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.453826811257839e-07
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 30976931.902050897
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -30976931.902050897
Rp3_im_im_a2 0 x3_im_a2 1.453826811257839e-07
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 3.3423919871752114e-08
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 3.868037117681213e-06
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 13595245.945361277
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -13595245.945361277
Rp5_im_im_a2 0 x5_im_a2 3.868037117681213e-06
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.3335984300525142e-06
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 9115539.776401034
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -9115539.776401034
Rp6_im_im_a2 0 x6_im_a2 1.3335984300525142e-06
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.0258318199555051e-07
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.2187694093517196e-07
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 7.548402163074587e-07
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 5419800.704099274
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -5419800.704099274
Rp9_im_im_a2 0 x9_im_a2 7.548402163074587e-07
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 7.198769308556018e-06
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 5289333.174126882
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -5289333.174126882
Rp10_im_im_a2 0 x10_im_a2 7.198769308556018e-06
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 2.2914694766957105e-07
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 3.6937834628765953e-06
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 3333537.2517604134
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -3333537.2517604134
Rp12_im_im_a2 0 x12_im_a2 3.6937834628765953e-06
Cx13_a2 x13_a2 0 1.0
Gx13_a2 0 x13_a2 p2 0 0.07071067811865475
Fx13_a2 0 x13_a2 V2 3.5355339059327378
Rp13_a2 0 x13_a2 8.939485563798027e-06
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 3.762953527705593e-06
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 1629532.0546544953
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -1629532.0546544953
Rp14_im_im_a2 0 x14_im_a2 3.762953527705593e-06
Cx15_re_a2 x15_re_a2 0 1.0
Gx15_re_a2 0 x15_re_a2 p2 0 0.1414213562373095
Fx15_re_a2 0 x15_re_a2 V2 7.0710678118654755
Rp15_re_re_a2 0 x15_re_a2 3.152527105635938e-05
Gp15_re_im_a2 0 x15_re_a2 x15_im_a2 0 1754493.7266283447
Cx15_im_a2 x15_im_a2 0 1.0
Gp15_im_re_a2 0 x15_im_a2 x15_re_a2 0 -1754493.7266283447
Rp15_im_im_a2 0 x15_im_a2 3.152527105635938e-05
.ENDS s_equivalent
